US08211662B2
Substrate 8: 2-(2′-Nitro-5′-(N-methylpiperazinyl)phenyl)benzoxazole (OF29A)
1.01 g (0.010 mol) of N-methylpiperazine were added to the mixture of 1.29 g (0.005 mol) of 2-(2′-nitro-5′-fluorophenyl)benzoxazole and 1.04 g (0.0075 mol) of K2CO3 in 9 ml of dimethyl sulfoxide. The reaction was stirred magnetically and heated at 90° C., the progression thereof being verified by TLC.

reactant | N-methylpiperazine | 0.010 mol, 1.01 g | CN1CCNCC1 | C5H12N2
reactant | 2-(2′-nitro-5′-fluorophenyl)benzoxazole | 0.005 mol, 1.29 g | [N+](=O)([O-])C1=C(C=C(C=C1)F)C=1OC2=C(N1)C=CC=C2 | C13H7FN2O3
reactant | K2CO3 | 0.0075 mol, 1.04 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethyl sulfoxide | 9 ml | CS(=O)C | C2H6OS
product | 2-(2′-Nitro-5′-(N-methylpiperazinyl)phenyl)benzoxazole | [N+](=O)([O-])C1=C(C=C(C=C1)C1N(CCNC1)C)C=1OC2=C(N1)C=CC=C2 | C18H18N4O3
